US06953792B2
4-(4-Fluorophenyl)-1,2,3,6-tetrahydro-1-(phenylmethyl)pyridine
Benzyl bromide (52.4 mL, 441 mmol) was added to a solution of 4-(4-fluorophenyl)pyridine (Description 14, 50.87 g, 294 mmol) in acetone (500 mL) and the mixture was heated under reflux for 3 days. The mixture was cooled to room temperature and the solid was collected, washed with acetone and diethyl ether and dried in vacuo. The solid was dissolved in methanol (400 mL) and water (100 mL), cooled to 0° C. and sodium borohydride (20.6 g, 542 mmol) was added in portions. The mixture was stirred at room temperature for 1 hour, then heated to reflux for 18 hours. The mixture was cooled and the solvent was evaporated under reduced pressure. Dichloromethane (300 mL) and water (200 mL) were added and the layers were separated. The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a light brown oil (61.5 g, 78%). m/z (ES+) 268 (M+1).

reactant | Benzyl bromide | 441 mmol, 52.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 4-(4-fluorophenyl)pyridine | 294 mmol, 50.87 g | FC1=CC=C(C=C1)C1=CC=NC=C1 | C11H8FN
reactant | sodium borohydride | 542 mmol, 20.6 g | [BH4-].[Na+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 4-(4-Fluorophenyl)-1,2,3,6-tetrahydro-1-(phenylmethyl)pyridine | 61.5 g, 78% | FC1=CC=C(C=C1)C=1CCN(CC1)CC1=CC=CC=C1 | C18H18FN
